US05399578
A solution of 2.4 g (4.3 mmol) of N-(1-benzyloxycarbonylcyclohexyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine in 40 ml of dioxan is hydrogenated with the addition of 0.5 g of Pd/C (10%) and worked up, in a manner analogous to that described in Example 73. The N-(1-carboxycyclohexyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine is thus obtained in the form of colourless crystals (from ethyl acetate) melting between 134° and 136°.

reactant | N-(1-benzyloxycarbonylcyclohexyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | 4.3 mmol, 2.4 g | C(C1=CC=CC=C1)OC(=O)C1(CCCCC1)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O | C33H37N5O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | N-(1-carboxycyclohexyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | C(=O)(O)C1(CCCCC1)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O | C26H31N5O3
